US04853384
A mixture of 1.5 ml of formic acid and 3.5 ml of acetic anhydride was stirred at 55° C. for one hour, cooled and then treated with a solution of 4.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine in 50 ml of diethyl ether. After stirring at ambient temperature for three hours, the reaction mixture was poured into 100 ml of water, basified to a pH of about 10 by the addition of sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated to an oil. High pressure liquid chromatography of the oil (silica gel; elution with ethyl acetate) afforded a solid which was recrystallized from isopropyl ether/hexanes (1:2) to yield 2.1 g (64%) of 1-formyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine, m.p. 118°-119° C.

reactant | formic acid | 1.5 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 3.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 4.0 g | FC1=C(OC2(CCNCC2)C2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C17H14F5NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 1-formyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 2.1 g, 64% | C(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C18H14F5NO2
